US07015218B1
Ethyl 4-[N-(3-cyano-4-neopentyloxyphenyl)carbamoyl]-3-methylpyrazol-1-ylacetate
N-(3-Cyano-4-neopentyloxyphenyl)-5-methylpyrazole-4-carboxamide (2.4 g), potassium carbonate (1.1 g), potassium iodide (1.4 g) and ethyl bromoacetate (1.4 g) were added to a mixed solvent of dimethylformamide (24 ml) and toluene (24 ml) and the mixture was stirred at 60° C. for 4 h. The reaction mixture was added into water, washed with dilute hydrochloric acid and saturated brine, and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (mobile phase: chloroform). Methylene chloride was added to the obtained oily substance to allow crystallization. The crystals were recrystallized from a mixed solvent of methylene chloride-n-hexane to give the title compound (0.7 g), melting point: 240° C.

reactant | N-(3-Cyano-4-neopentyloxyphenyl)-5-methylpyrazole-4-carboxamide | 2.4 g | C(#N)C=1C=C(C=CC1OCC(C)(C)C)NC(=O)C=1C=NNC1C | C17H20N4O2
reactant | potassium carbonate | 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.4 g | [I-].[K+]
reactant | ethyl bromoacetate | 1.4 g | BrCC(=O)OCC | C4H7BrO2
solvent | water | O | H2O
solvent | toluene | 24 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 24 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-[N-(3-cyano-4-neopentyloxyphenyl)carbamoyl]-3-methylpyrazol-1-ylacetate | 0.7 g | C(#N)C=1C=C(C=CC1OCC(C)(C)C)NC(=O)C=1C(=NN(C1)CC(=O)OCC)C | C21H26N4O4
